US08349885B2
Synthesis of (5-chloro-2-phenyl-1H-indol-7-yl)-cyclopentyl-amine
5-Chloro-7-nitro-2-phenyl-1H-indole (225 mg, 0.83 mmol) was reacted instead of 5-methyl-7-nitro-2-phenyl-1H-indole in Preparation 46 to give the title compound 230 mg (Yield 89%).

reactant | 5-Chloro-7-nitro-2-phenyl-1H-indole | 0.83 mmol, 225 mg | ClC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C1=CC=CC=C1 | C14H9ClN2O2
reactant | 5-methyl-7-nitro-2-phenyl-1H-indole | CC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C1=CC=CC=C1 | C15H12N2O2
product | (5-chloro-2-phenyl-1H-indol-7-yl)-cyclopentyl-amine | 230 mg, Yield 89% | ClC=1C=C2C=C(NC2=C(C1)NC1CCCC1)C1=CC=CC=C1 | C19H19ClN2
